US07256198B2
Step 4: N-(3,3-Dimethyl-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indol-8-yl)benzenesulfonamide
To a solution of N-(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)benzenesulfonamide (0.064 g, 0.14 mmol, 1 eq) in CH2Cl2 (4 mL) was added methanesulfonic acid (2 mL). The reaction was stirred at rt overnight and then poured into brine. It was basified to pH 10, saturated with solid NaCl, and extracted with EtOAc. The combined organics were dried over sodium sulfate and concentrated. The crude residue purified by column chromatography using acetone/hexanes (40/60) as an eluent to give the title compound as a yellow foam (0.032 g, 58% ). NMR (400 Mz, DMSO-d6): consistent. MS: (ES−) m/z 368 [M−H].

reactant | N-(3′,3′-dimethyl-3′,4′-dihydro-2′H-spiro[1,3-dioxane-2,10′-pyrimido[1,2-a]indol]-8′-yl)benzenesulfonamide | 0.14 mmol, 0.064 g, 1 eq | CC1(CN=C2N(C=3C=CC(=CC3C23OCCCO3)NS(=O)(=O)C3=CC=CC=C3)C1)C | C22H25N3O4S
reactant | methanesulfonic acid | 2 mL | CS(=O)(=O)O | CH4O3S
reactant | NaCl | [Na+].[Cl-]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | N-(3,3-Dimethyl-10-oxo-2,3,4,10-tetrahydropyrimido[1,2-a]indol-8-yl)benzenesulfonamide | 0.032 g, 58% | CC1(CN=C2N(C=3C=CC(=CC3C2=O)NS(=O)(=O)C2=CC=CC=C2)C1)C | C19H19N3O3S
